US09421205B2
(e) tert-Butyl 3-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate (I138)
A solution of methyl 2-ethynylbenzoate (I4) (0.21 g, 1.2 mmol) in dimethylformamide (3 mL) and triethylamine (0.57 mL, 4.1 mmol) were added to a mixture of tert-butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate (1137) (0.45 g, 1.0 mmol, 1 eq), Pd(PPh3)2Cl2 (71 mg, 0.10 mmol), Cu(I)I (30 mg, 0.15 mmol) and triphenylphosphine (40 mg, 0.15 mmol, 0.15) in dimethylformamide (4 mL). The reaction mixture was heated under microwave irradiation at 120° C. for 15 minutes. The reaction was cooled and the mixture diluted with EtOAc and passed through a plug of celite and washed through with EtOAc (60 mL). Water (50 mL) was added and the layers separated. The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic extracts were washed with water (50 mL) and brine (50 mL) and dried over Na2SO4. After filtration the solvent was removed in vacuo to give a dark brown residue. The residue was purified by column chromatography on silica gel (0-20 then 20-50% EtOAc in in petroleum benzine 40-60° C.) to give the title compound (I138) (0.53 g, 90%) as an orange oil; 1H NMR (400 MHz, CDCl3) δ 8.62 (s, 1H), 7.68 (dd, J=7.7, 1.0 Hz, 1H), 7.58 (d, J=8.4 Hz, 2H), 7.47-7.41 (m, 2H), 7.39-7.30 (m, 4H), 7.24 (s, 1H), 3.96 (s, 2H), 3.87-3.75 (m, 1H), 3.70 (s, 3H), 3.68-3.52 (m, 1H), 3.48-3.22 (m, 3H), 2.30-2.21 (m, 1H), 2.02-1.94 (m, 1H), 1.49 (s, 9H). LCMS Method C: rt 6.82 min; m/z 581.1 [M+H]+.

reactant | methyl 2-ethynylbenzoate | 1.2 mmol, 0.21 g | C(#C)C1=C(C(=O)OC)C=CC=C1 | C10H8O2
reactant | triethylamine | 4.1 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate | 1.0 mmol, 0.45 g, 1 eq | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C | C20H22ClF3N4O2
reactant | triphenylphosphine | 0.15 mmol, 40 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.10 mmol, 71 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 3-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)pyrrolidine-1-carboxylate | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CC1)C(=O)OC(C)(C)C)=O | C31H31F3N4O4
